US07652032B2
3-methyl-1,2-benzisoxazol-6-ol
1.98 g of 1-(2,4-dihydroxyphenyl)ethanone oxime (12 mM) and 1 g of potassium hydroxide (18 mM) are refluxed for 4 days in a methanol/water mixture (100 ml/100 ml). The reaction medium is subsequently concentrated under reduced pressure, acidified to pH=1 with 1N HCl, and then extracted with ethyl acetate. The organic phase obtained is dried over magnesium sulfate and concentrated under reduced pressure. The evaporation residue is purified by silica gel chromatography (methylcyclohexane/ethyl acetate gradient of 70/30 to 30/70; v/v). The expected product is obtained in the form of a white solid (0.39 g) with a yield of 22%.

reactant | 1-(2,4-dihydroxyphenyl)ethanone oxime | 12 mM, 1.98 g | OC1=C(C=CC(=C1)O)C(C)=NO | C8H9NO3
reactant | potassium hydroxide | 18 mM, 1 g | [OH-].[K+]
solvent | methanol water | 100 ml | CO.O
product | 3-methyl-1,2-benzisoxazol-6-ol | yield of 22% | CC1=NOC2=C1C=CC(=C2)O | C8H7NO2
